US07605172B2
Thiobenzamide (447 mg, 3.26 mmol) was added under nitrogen to a solution of (2-bromo-1-(6-methoxy-2-naphthyl)ethanone (906 mg, 3.25 mmol), prepared in the previous step, in 25 mL of absolute ethanol at approximately 70° C. After the addition the reaction was refluxed for 2 h. The solid was collected by filtration, rinsed with absolute ethanol and dried under reduced pressure to give 4-(6-methoxy-2-naphthyl)-2-phenyl-1,3-thiazole (909 mg, 88%) as a white solid, mp 191-193° C. Elemental Analysis for C20H15NOS Calc'd: C, 75.68; H, 4.76; N, 4.41. Found: C, 75.37; H, 4.65; N, 4.31.

reactant | Thiobenzamide | 3.26 mmol, 447 mg | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | 2-bromo-1-(6-methoxy-2-naphthyl)ethanone | 3.25 mmol, 906 mg | BrCC(=O)C1=CC2=CC=C(C=C2C=C1)OC | C13H11BrO2
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-(6-methoxy-2-naphthyl)-2-phenyl-1,3-thiazole | 909 mg, 88% | COC=1C=C2C=CC(=CC2=CC1)C=1N=C(SC1)C1=CC=CC=C1 | C20H15NOS
